US07659268B2
To 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.3 g, 5.2 mmol) were added KOAc (1.3 g, 13 mmol), methyl 3-bromo-5-hydroxybenzoate (1.0 g, 4.3 mmol), Pd(dppf)Cl2 (177 mg, 0.22 mmol) and anhydrous DMF (22 mL). The reaction mixture was heated at 80° C. under N2 atmosphere for 18 hours. The resulting material was cooled to room temperature and filtered through a plug of Celite using ethyl acetate. The organic layer was washed with water (×2), dried over Na2SO4 and filtered. The solvent was evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel (0-30% ethyl acetate in hexane) to yield methyl 3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate as a white solid. ESI-MS m/z calc. 278.1, found 279.3 (M+1)+. Retention time 1.53 minutes.

reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 5.2 mmol, 1.3 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 13 mmol, 1.3 g | CC(=O)[O-].[K+]
reactant | methyl 3-bromo-5-hydroxybenzoate | 4.3 mmol, 1.0 g | BrC=1C=C(C(=O)OC)C=C(C1)O | C8H7BrO3
catalyst | Pd(dppf)Cl2 | 0.22 mmol, 177 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
product | methyl 3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | OC=1C=C(C(=O)OC)C=C(C1)B1OC(C(O1)(C)C)(C)C | C14H19BO5
